US04356302
To 4 parts of 2-(2H-1,4-benzothiazin-3(4H)-ylidene)-2-(4-fluorophenyl) acetamide in 80 parts of DMF is added 6 parts dimethylformamide diethyl acetal and the reaction mixture was stirred at room temperature for 2 to 6 hours then heated at 80°-140° C. for 1 to 6 hours. After cooling 6 parts of methoxy-bis-(dimethylamino) methane is added and the reaction mixture then heated at 50° to 80° C. for 2 to 24 hrs. The cooled reaction mixture is then diluted with 40 parts of water and refluxed for 2 to 18 hr. Upon cooling the precipitate present was collected and recrystallized from aqueous DMF to give 4-(4-fluorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one which melts above 300°.

reactant | 2-(2H-1,4-benzothiazin-3(4H)-ylidene)-2-(4-fluorophenyl) acetamide | S1CC(NC2=C1C=CC=C2)=C(C(=O)N)C2=CC=C(C=C2)F | C16H13FN2OS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | dimethylformamide diethyl acetal | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | methoxy-bis-(dimethylamino) methane | COC(N(C)C)N(C)C | C6H16N2O
solvent | water | O | H2O
product | 4-(4-fluorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one | FC1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C17H11FN2OS
